US09056850B2
2-Bromothiophene (130.4 g, 0.8 mol) was dissolved in 2-Me-THF (240 ml, 0.3 L/mole) and the resulting mixture cooled to 2° C. NiCl2(dppe) (2.11 g, 4.0 mmol) was added followed by addition, over about 40 min. at ≦30° C., of the 4-fluoro-phenylmagnesium bromide solution prepared as in STEP A above to yield a dark red solution. The solution was then stirred at 22° C. for 1.5 hrs. A solution of acetic acid (91.7 ml, 1.6 mol) in water (240 ml, 0.3 L/mol) was then added and the resulting mixture stirred strongly for 15 min. The resulting layers were separated, the organic layer was washed with water (80 ml, 0.1 L/mol), then concentrated in vacuo at 75° C. to yield 2-(4-fluorophenyl)thiophene as a brown oil.

reactant | 2-Bromothiophene | 0.8 mol, 130.4 g | BrC=1SC=CC1 | C4H3BrS
reactant | 4-fluoro-phenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
reactant | acetic acid | 1.6 mol, 91.7 ml | C(C)(=O)O | C2H4O2
solvent | water | 240 ml | O | H2O
product | 2-(4-fluorophenyl)thiophene | FC1=CC=C(C=C1)C=1SC=CC1 | C10H7FS
